US05843957
Preparation of N-[1-(3-aminocarbonylpropyl)-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[1-(3-cyanopropyl)-4-(3-methoxyphenyl)-l,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (100 mg, 0.19 mmol) in methanol-acetone (3 ml) were added 10% aqueous sodium carbonate solution (1 ml) and 30% hydrogen peroxide (1 ml), and the mixture was stirred at room temperature for three hours. The mixture was poured into water, and extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The residue was concentrated under reduced pressure, and purified by preparative thin layer chromatography to give the title compound (96 mg, 0.17 mmol).

reactant | N-[1-(3-cyanopropyl)-4-(3-methoxyphenyl)-l,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.19 mmol, 100 mg | C(#N)CCCN1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C32H35N5O3
reactant | sodium carbonate | 1 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen peroxide | 1 ml | OO | H2O2
reactant | water | O | H2O
solvent | methanol acetone | 3 ml | CO.CC(=O)C
product | N-[1-(3-aminocarbonylpropyl)-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.17 mmol, 96 mg | NC(=O)CCCN1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C32H37N5O4
